US09422281B2
Potassium carbonate (0.002 g, 0.014 mmol) was added to a solution of isopropyl (S)-4-acetyl-6-cyano-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1 (2H)-carboxylate (0.010 g, 0.025 mmol) in dimethyl sulfoxide (2004), and the mixture was cooled in an ice bath. Hydrogen peroxide (30 wt %, 100 μL, 0.979 mmol) was added dropwise, the ice bath removed after 1 minute, and the reaction was allowed to warm to room temperature. Water was added, and the resulting precipitate was filtered and dried. The solid was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated in a Genevac to afford isopropyl (S)-4-acetyl-6-carbamoyl-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 426 [M+H]+.

reactant | Potassium carbonate | 0.014 mmol, 0.002 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl (S)-4-acetyl-6-cyano-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1 (2H)-carboxylate | 0.025 mmol, 0.010 g | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)C#N)C=1C=NN(C1)C1CC1)C(=O)OC(C)C)C | C22H25N5O3
reactant | Hydrogen peroxide | 0.979 mmol, 100 μL | OO | H2O2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | isopropyl (S)-4-acetyl-6-carbamoyl-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)C(N)=O)C=1C=NN(C1)C1CC1)C(=O)OC(C)C)C | C22H27N5O4
